US07179801B2
To a suspension of lithium aluminum hydride (2.7 g) in tetrahydrofuran (150 ml) was added 4-triphenylmethyl-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine-3-carbonitrile (8.5 g) under ice-cooling. The mixture was stirred at 65° C. for 16 hours. After cooling on an ice bath, potassium fluoride (16.5 g) and water (5 ml) were added to the reaction mixture. The insoluble materials were removed by filtration. The filtrate was concentrated in vacuo to give 1-(4-triphenylmethyl-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidin-3-yl)methylamine (8.4 g) as a solid.

reactant | lithium aluminum hydride | 2.7 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 4-triphenylmethyl-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine-3-carbonitrile | 8.5 g | C1(=CC=CC=C1)C(N1C=2N(CCC1)N=CC2C#N)(C2=CC=CC=C2)C2=CC=CC=C2 | C26H22N4
reactant | potassium fluoride | 16.5 g | [F-].[K+]
reactant | water | 5 ml | O | H2O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 1-(4-triphenylmethyl-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidin-3-yl)methylamine | 8.4 g | C1(=CC=CC=C1)C(N1C=2N(CCC1)N=CC2CN)(C2=CC=CC=C2)C2=CC=CC=C2 | C26H26N4
